US06268387B1
3-Phenylamino-N-phenyl-benzamide
A mixture of 3-amino-N-phenyl-benzamide (1.5 g, 7.0 mmol), triphenylbismuth (3.7 g, 8.0 mmol), copper(II) acetate (1.3 g, 7.0 mmol), and triethylamine (0.73 g, 7.0 mmol) was stirred under an inert atmosphere in dichloromethane (100 mL) and heated to reflux. After 4 to 24 hours (the reaction was monitored for completeness using tlc), the mixture was allowed to cool and was then diluted with additional dichloromethane (200 mL) and stirred into 2N hydrochloric acid (250 mL). After 2 hours, the layers were separated and the organic phase washed successively with 2N HCl, water, 0.5 M aqueous potassium carbonate, water, and saturated aqueous sodium chloride, then dried over MgSO4. The solution was filtered then stripped of solvent under reduced pressure to afford a solid residue which was purified by chromatography on a column of silica gel in chloroform to give the product (1.0 g); m.p. 134-135° C. after recrystallization from toluene.

reactant | 3-amino-N-phenyl-benzamide | 7.0 mmol, 1.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
reactant | triphenylbismuth | 8.0 mmol, 3.7 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 7.0 mmol, 0.73 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 250 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 7.0 mmol, 1.3 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-Phenylamino-N-phenyl-benzamide | 1.0 g | C1(=CC=CC=C1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C19H16N2O
